US07951954B2
b) Methanesulfonic acid 2-(4-piperidin-1-ylmethylphenyl)ethyl ester
A stirred solution of 2-(4-piperidin-1-ylmethylphenyl)ethanol (125 mg) and triethylamine (0.18 mL) in dichloromethane (5 mL) was treated dropwise at 0° C. with methanesulphonyl chloride (71.8 mg, 0.05 mL) and then stirred at room temperature for 3 hours. The mixture was diluted with methylene chloride and washed with water. The dried (sodium sulphate) organic layer was evaporated to give the subtitle compound as a water-white oil (150 mg).

reactant | 2-(4-piperidin-1-ylmethylphenyl)ethanol | 125 mg | N1(CCCCC1)CC1=CC=C(C=C1)CCO | C14H21NO
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.05 mL, 71.8 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(4-piperidin-1-ylmethylphenyl)ethyl ester | N1(CCCCC1)CC1=CC=C(C=C1)CCOS(=O)(=O)C | C15H23NO3S
